US07579368B2
Ethyl 5-dimethylsulfamoyl-2-ethoxy-4-iodobenzoate (1.01 g, 2.36 mmol), zinc cyanide (0.167 g, 1.42 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.191 g, 0.165 mmol) were combined under nitrogen in a flame-dried Schlenk tube. Dimethylformamide (9 mL) was added and the reaction mixture was put through three freeze-pump-thaw cycles and then put under a nitrogen atmosphere and heated at 80° C. for 16 h. After cooling to room temperature, water (50 mL) was added and the resulting mixture was extracted with diethyl ether (100 mL, 2×50 mL). The combined organic phases were washed with brine (3×50 mL) and then dried over magnesium sulfate and concentrated. Purification of the crude residue by flash column chromatography (silica gel, eluting with 33% ethyl acetate in hexanes) gave ethyl 4-cyano-5-dimethylsulfamoyl-2-ethoxybenzoate as an off-white solid (0.708 g, 92%). LC-MS: 327.1 [(M+H)+].

reactant | Ethyl 5-dimethylsulfamoyl-2-ethoxy-4-iodobenzoate | 2.36 mmol, 1.01 g | CN(S(=O)(=O)C=1C(=CC(=C(C(=O)OCC)C1)OCC)I)C | C13H18INO5S
reactant | Dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 1.42 mmol, 0.167 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.165 mmol, 0.191 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 mL | O | H2O
product | ethyl 4-cyano-5-dimethylsulfamoyl-2-ethoxybenzoate | 0.708 g, 92% | C(#N)C1=CC(=C(C(=O)OCC)C=C1S(N(C)C)(=O)=O)OCC | C14H18N2O5S
